US09334263B2
To a solution of (s)-tert-butyl 2-((4-nitro-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate (3.2 g, 10.2 mmol) in methanol (100 mL) was added Pd/C (600 mg). The mixture was stirred under 1 atm H2 at room temperature overnight, and then filtrated through a pad of celite. The filtrate was concentrated to afford (S)-tert-butyl 2-((4-amino-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate. MS (ES+) C13H22N4O3 requires: 282, found: 283 [M+H]+.

reactant | (s)-tert-butyl 2-((4-nitro-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate | 10.2 mmol, 3.2 g | [N+](=O)([O-])C=1C=NN(C1)C[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C13H20N4O5
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd/C | 600 mg | [Pd] | Pd
product | (S)-tert-butyl 2-((4-amino-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate | NC=1C=NN(C1)C[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C13H22N4O3
